US04873084
Following the procedure of Example 5, but substitute ammoniumpentaborate with 5.82 g (0.02 mole) borax pentahydrate and using 3.08 g (0.0126 mole) bariumchloride in a total of 33 ml boiling water (1 hr), 4.1 g bariumtetraborate was isolated. The analysis for BaB4O7.4 H2O showed a B/Ba ratio of 4.01:1. IR spectrum showed λmaxKBr 3400 (broad), 1640 (medium), 1420 (shoulder), 1340 (broad, very strong), 1000 (broad, very strong), 730 (weak), 690 (weak) cm- 1.

reactant | ammoniumpentaborate | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+]
reactant | borax pentahydrate | 0.02 mole, 5.82 g | B1(OB2OB(OB(O1)O2)[O-])[O-].O.O.O.O.O.[Na+].[Na+]
reactant | bariumchloride | 0.0126 mole, 3.08 g | [Cl-].[Ba+2].[Cl-]
solvent | water | O | H2O
product | bariumtetraborate | 4.1 g | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Ba+2].[Ba+2].[Ba+2].[Ba+2].[Ba+2].[Ba+2] | InChI=1S/4BO3.6Ba/c4*2-1(3)4;;;;;;/q4*-3;6*+2
